US05466704
A. 1H-Indole-3-carboxylic acid, methyl ester
Indole-3-carboxylic acid (757 mg, 4.7 mmol, 1.0 eq.) was partially dissolved in a mixture of ether, ethyl acetate and methanol. While stirring, a solution of diazomethane in ether was added until a yellow color persisted. The solvent was removed in vacuo and the remaining white solid was passed through a silica gel column, eluting with dichloromethane to give the title A compound (819 mg), m.p. 147°-149° C.

reactant | Indole-3-carboxylic acid | 4.7 mmol, 757 mg, 1.0 eq. | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 1H-Indole-3-carboxylic acid, methyl ester | 819 mg | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
